US07459567B2
Methyl [4-bromo-2-(4-{[(1-ethylpropyl)amino]carbonyl}phenyl)thien-3-yl]acetate (0.200 g, 0.5 mmol) was dissolved in dioxane (3 mL) and 2-chlorophenylboronic acid (0.156 g, 1.0 mmol). K2CO3 (0.207 g, 1.5 mmol) was dissolved in H2O (0.2 mL) and added to the dioxane. The solution was degassed by bubbling argon through the mixture for five minutes. {1,1′-Bis(diphenylphosphino)-ferrocene}dichloropalladium(II) complex with dichloromethane (1:1) (0.012 g, 0.015 mmol) was added and the mixture heated under argon to 70° C. for 3 hours (followed by TLC 15:1 hexane:EtOAc). The solvents were removed and the mixture partitioned between EtOAc and H2O. The EtOAc layer was dried (MgSO4) and absorbed onto silica gel. The product was purified by flash chromatography (20:1 hexane:EtOAc) to yield methyl [4-(2-chlorophenyl)-2-(4-{[(1-ethylpropyl)amino]carbonyl}phenyl)thien-3-yl]acetate (0.169 g) as a white solid. mp 57-59° C.; 1H NMR (500 MHz, DMSO-d6) δ: 0.87 (t, 6H, J=7.3 Hz), 1.50 (m, 2H), 1.55 (m, 2H), 3.35 (s, 3H), 3.53 (s, 2H), 3.75 (m, 1H), 7.31 (d, 1H, J=7.2 Hz), 7.43 (m, 3H), 7.59 (m, 3H), 7.96 (d, 2H, J=8.4 Hz), 8.12 (d, 1H, J=8.7 Hz). MS (ES) m/z456.1 ([M+H]+). MS (ES) m/z488.1 ([M+CH3OH+H]+). MS (ES) m/z 911.2 ([2M+H]+). Anal. Calcd for C25H26ClNO3S: C, 65.85; H, 5.75; N, 3.07. Found: C, 65.92; H, 5.96; N, 3.27.

reactant | Methyl [4-bromo-2-(4-{[(1-ethylpropyl)amino]carbonyl}phenyl)thien-3-yl]acetate | 0.5 mmol, 0.200 g | BrC=1C(=C(SC1)C1=CC=C(C=C1)C(=O)NC(CC)CC)CC(=O)OC | C19H22BrNO3S
reactant | 2-chlorophenylboronic acid | 1.0 mmol, 0.156 g | ClC1=C(C=CC=C1)B(O)O | C6H6BClO2
reactant | K2CO3 | 1.5 mmol, 0.207 g | C(=O)([O-])[O-].[K+].[K+]
reactant | dichloromethane | 0.015 mmol, 0.012 g | ClCCl | CH2Cl2
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | H2O | 0.2 mL | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | hexane | CCCCCC | C6H14
product | methyl [4-(2-chlorophenyl)-2-(4-{[(1-ethylpropyl)amino]carbonyl}phenyl)thien-3-yl]acetate | 0.169 g | ClC1=C(C=CC=C1)C=1C(=C(SC1)C1=CC=C(C=C1)C(=O)NC(CC)CC)CC(=O)OC | C25H26ClNO3S
